* C:\sandbox\spicelib\examples\testfiles\DC sweep.asc
Vin in 0 1
R1 in out 33k tol=1% Tc1=0 Tc2=0
R2 out 0 {res}
R3 in out 1Meg tol=1% pwr=0.1
D1 out 0 D
.model D D
.lib C:\Users\nunob\AppData\Local\LTspice\lib\cmp\standard.dio
.dc Vin 1 10 9
.param res=10k
.step temp 0 100 50
* .step param res 1k 16k 5k
.op
.param temp = 0
.backanno
.end
